US05859032
2-[2-(4-geranyloxybenzoylamino)ethylamino]-5-methoxypyridine
4-geranyloxybenzoic acid(1.92 g) was dissolved in chloroform(50 ml) and triethylamine(1.95 ml), and then diphenylphosphinic chloride(1.34 ml) was added thereto while being cooled with ice. After being stirred for 1 hour, the mixture, with 2-(2-aminoethylamino)-5-methoxypyridine(1.17 g) added thereto, was stirred for 8 hours at room temperature. The reaction mixture was washed with saturated sodium hydrogencarbonate aqueous solution and saturated brine successively, dried over sodium sulfate anhydride, and then concentrated under a vacuum. The residue was purified by silica gel column chromatography (chloroform:methanol=20:1). The resulting solid was recrystallized from n-hexane/ethyl acetate, thereby yielding 2.22 g of the aimed compound.

reactant | 4-geranyloxybenzoic acid | 1.92 g | C(\C=C(/C)\CCC=C(C)C)OC1=CC=C(C(=O)O)C=C1 | C17H22O3
reactant | diphenylphosphinic chloride | 1.34 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)Cl | C12H10ClOP
reactant | 2-(2-aminoethylamino)-5-methoxypyridine | 1.17 g | NCCNC1=NC=C(C=C1)OC | C8H13N3O
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 1.95 ml | C(C)N(CC)CC | C6H15N
product | 2-[2-(4-geranyloxybenzoylamino)ethylamino]-5-methoxypyridine | 2.22 g | C(\C=C(/C)\CCC=C(C)C)OC1=CC=C(C(=O)NCCNC2=NC=C(C=C2)OC)C=C1 | C25H33N3O3
